US07145009B2
Ethyl 1-(cyanomethyl)-6-iodoindole-2-carboxylate
A solution of ethyl 6-iodoindole-2-carboxylate (7.0 g, 22 mmol) in DMF (25 mL) was added dropwise over 15 min to a stirred suspension of sodium hydride (60%, 1.36 g, 34 mmol) in DMF (50 mL) at 0° C. under Ar. The reaction was stirred at 0° C. for 45 min then chloroacetonitrile (2.85 mL, 45 mmol) was added in one portion. The reaction was then heated to 75° C. and stirred for one h. After allowing to cool to room temperature the mixture was poured into water (300 mL) and extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with brine (1×200 ml), dried (magnesium sulfate), filtered and the solvent removed under vacuum to give the product (1.8 g, 23%). IR νmax (Nujol)/cm−1 2924, 2854, 1895, 1703, 1601, 1527, 1464, 1446, 1426, 1398, 1377, 1366, 1334, 1308, 1261, 1204, 1148, 1135, 1119, 1103, 1048, 1024, 989, 949, 904, 894, 871, 842, 833, 800, 786, 762, 736, 654, 612, 584 and 471; NMR δH (400 MHz; CDCl3) 7.79 (1H, s), 7.51 (1H, d, J 8.6 Hz), 7.42 (1H, d, J 8.6 Hz), 7.32 (1H, s), 5.54 (2H, s), 4.37 (2H, q, J 7 Hz), 1.39 (3H, t, J 7 Hz).

reactant | ethyl 6-iodoindole-2-carboxylate | 22 mmol, 7.0 g | IC1=CC=C2C=C(NC2=C1)C(=O)OCC | C11H10INO2
reactant | sodium hydride | 34 mmol, 1.36 g | [H-].[Na+]
reactant | chloroacetonitrile | 45 mmol, 2.85 mL | ClCC#N | C2H2ClN
reactant | water | 300 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(cyanomethyl)-6-iodoindole-2-carboxylate | 1.8 g, 23% | C(#N)CN1C(=CC2=CC=C(C=C12)I)C(=O)OCC | C13H11IN2O2
